US04810713
α,α-Bis-(4-fluorophenyl)-1-(phenylmethyl)-4-piperidinemethanol
To a 6.08 g (0.25 mole) of magnesium turnings and an iodine crystal in 600 ml of dry tetrahydrofuran and under an atmosphere of nitrogen was added, dropwise, a solution of p-bromofluorobenzene in 125 ml of tetrahydrofuran. The temperature of the reaction was kept below 10° C. by cooling in an ice-methanol bath. The mixture was stirred at room temperature for 1.5 hours. A solution of 24.7 g (0.10 mole) of 1-(phenylmethyl)-4-piperidinecarboxylic acid ethyl ester hydrochloride in tetrahydrofuran was added, and the mixture was stirred at room temperature for 17 hours. The reaction was poured into an icy, aqueous solution of ammonium chloride, and the resulting solution was extracted with methylene chloride. The methylene chloride solution was extracted with dilute sodium hydroxide and was dried over magnesium sulfate. The solvent was removed in vacuo to give an oil. This was crystallized from ether-hexane to give 19.87 g (51%) of the title compound, m.p. 113°-115° C.

reactant | magnesium | 0.25 mole, 6.08 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | p-bromofluorobenzene | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 1-(phenylmethyl)-4-piperidinecarboxylic acid ethyl ester hydrochloride | 0.10 mole, 24.7 g | Cl.C(C)OC(=O)C1CCN(CC1)CC1=CC=CC=C1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | α,α-Bis-(4-fluorophenyl)-1-(phenylmethyl)-4-piperidinemethanol | 19.87 g, 51% | FC1=CC=C(C=C1)C(O)(C1CCN(CC1)CC1=CC=CC=C1)C1=CC=C(C=C1)F | C25H25F2NO
